2124-12-11 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2124-12-10**] 04:00 PM
   Tele with complete heart block and junctional escape
   Need to confirm code status with daughter
   Allergies:
   [**Name2 (NI) 83**] Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-11**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 67 (40 - 75) bpm
   BP: 150/68(87) {67/45(58) - 180/93(105)} mmHg
   RR: 26 (14 - 27) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
                  Total In:
                                                                    120 mL
                                                                    120 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    200 mL
                                                                    350 mL
   Urine:
                                                                    200 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -80 mL
                                                                   -230 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ////
   Physical Examination
   Gen: Elderly female in NAD. Oriented to
Mon, [**Month (only) **]
 What is this
   place?... bright lights
 . Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVP not visible
   CV: PMI located in 5th intercostal space, midclavicular line. [**Last Name (un) **],
   normal S1, S2. systolic at base. No thrills, lifts. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: No c/c/e. No femoral bruits.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.  Sebhorragic
   keratosis
   Labs / Radiology
   137
                               [image002.gif]
                                     105
                               [image002.gif]
                                     23
   [image004.gif]
   91
                                                                    AGap=9
   [image005.gif]
   3.9
                               [image002.gif]
                                     27
                               [image002.gif]
                                     0.9
   [image007.gif]
   CK: 31
   MB: Notdone
   Trop-T: <0.01
   Comments:
   cTropnT: Ctropnt > 0.10 Ng/Ml Suggests Acute Mi
   Ca: 9.5 Mg: 2.1 P: 3.9
   87
                                                                       6.7
                                                            [image007.gif]
                                    10.4
   [image004.gif]
   174
                 [image008.gif]
   [image004.gif]
                                    29.8
   [image007.gif]
   PT: 28.9
   PTT: 37.8
   INR: 2.9
   ASSESSMENT AND PLAN, AS REVIEWED AND DISCUSSED IN MULTIDISCIPLINARY
   ROUNDS
   Patient is an 88 yo female with history of HTN, Hypercholesterolemia,
   and atrial fibrillation who presents with lightheadedness and found to
   be in complete heart block.
   .
   #. COMPLETE HEART BLOCK. Heart block was thought to be secondary
   medication effects and/or poor conduction system, possibly from
   calcific valvular disease. Digoxin or metoprolol could be contributing
   but digoxin level normal. A chest xray showed calicfications. Acute
   ischemia is unlikely given normal cardiac enzymes. Also, unlikely to be
   Lyme as she has no exposures. No signs of viral myocarditis on exam.
   Infiltration from prior lymphoma would be rare but possible. She has
   been hemodynamically stable since admission with rhythms alternating
   between intermittent CHB and A.fib. Plan to observe until [**12-11**] to [**Month/Year (2) **]
   for medication effects and then consider for pacemaker placement.
   -Telemetry with pacer pads on
   -Hold coumadin for likely PPM once INR reaches 2
   -Hold all nodal agents, including digoxin and metoprolol
   -Will do Echo today to rule out infiltrative disease and establish
   baseline. If negative, will consider cardiac MRI.
   .
   #. Pump: No signs of volume overload currently.
   -Con't home lasix
   -Con't ASA
   -Cardiac Echo
   .
   #. Afib: She was previously controlled on digoxin and metoprolol, with
   coumadin for anticoagulation. Her rhythm agents were held given
   presentation with CHB. Coumadin was held for possible pacemaker
   placment. Would do rate control for rapid ventricular response.
   .
   #. HTN: She had low blood pressures and heart block on admission, so
   metoprolol
   -If becomes severely hypertensive, consider ACE for BP control
   .
   # Hyperlipidemia: Con't Atorvastatin.
   .
   # Dementia: Con't Aricept
   .
   # GERD: Con't PPI
   .
   #. FEN: Low salt, cardiac diet
   .
   #. Access: PIV
   .
   #. PPx: Coumadin, PPI
   .
   #. Code: Patient states DNR/DNI but given dementia, will confirm with
   HCP first. Attempted to contact again on [**12-11**] but no one answered.
   .
   #. Dispo: CCU for now.
   Active Medications [**Known lastname 1692**],[**Known firstname 1693**]
   1. IV access: Peripheral line Order date: [**12-10**] @ 1609
   9. Furosemide 20 mg PO DAILY
   Hold for SBP<100  Order date: [**12-10**] @ 1609
   2. Albuterol-Ipratropium [**2-16**] PUFF IH Q6H  Order date: [**12-10**] @ 1609
   10. HydrALAzine 25 mg PO Q6H:PRN SBP>185 x2 readings  Order date: [**12-10**]
   @ 1609
   3. Aspirin EC 325 mg PO DAILY  Order date: [**12-10**] @ 1609
   11. Influenza Virus Vaccine 0.5 mL IM ASDIR
   Follow Influenza Protocol Document administration in POE   Order date:
   [**12-10**] @ 1603
   4. Atorvastatin 10 mg PO DAILY  Order date: [**12-10**] @ 1609
   12. Omeprazole 20 mg PO DAILY  Order date: [**12-10**] @ 1609
   5. Bisacodyl 10 mg PO/PR DAILY:PRN  Order date: [**12-10**] @ 1609
   13. Pneumococcal Vac Polyvalent 0.5 ml IM ASDIR  Order date: [**12-10**] @
   1603
   6. Calcium Carbonate 500 mg PO BID  Order date: [**12-10**] @ 1609
   14. Senna 1 TAB PO BID:PRN  Order date: [**12-10**] @ 1609
   7. Donepezil 10 mg PO HS  Order date: [**12-10**] @ 1609
   15. Sodium Chloride 0.9% Flush 3 mL IV PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**12-10**] @ 1609
   8. Docusate Sodium 100 mg PO BID  Order date: [**12-10**] @ 1609
   16. Vitamin D 400 UNIT PO BID  Order date: [**12-10**] @ 1609